US07504403B2
1-{2-[2-(4-Azidomethyl-phenyl)-1-methyl-ethylamino]-pyrimidin-4-yl}-8-phenyl-1,2,3,6-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one:
The mixture of 1-{2-[2-(4-hydroxymethyl-phenyl)-1-methyl-ethylamino]-pyrimidin-4-yl}-8-phenyl-1,2,3,6-tetrahydro -pyrimido[1,2-a]pyrimidin-4-one (0.11 g, 0.24 mmol) and 1,8-diaza-bicyclo[5.4.0]undec-7-ene (47 μL, 0.312 mmol) in tetrahydrofuran (5 mL) was brought to 0° C. followed by the addition of diphenylphosphoryl azide (68 μL, 0.312 mmol). The mixture was removed from the ice-bath and stirred at room temperature for 17 h. The mixture was concentrated and chromatographed on silica gel using 0-8% 2M NH3 MeOH/CH2Cl2to afford a white solid. M+1=494.

reactant | 1-{2-[2-(4-hydroxymethyl-phenyl)-1-methyl-ethylamino]-pyrimidin-4-yl}-8-phenyl-1,2,3,6-tetrahydro -pyrimido[1,2-a]pyrimidin-4-one | 0.24 mmol, 0.11 g | OCC1=CC=C(C=C1)CC(C)NC1=NC=CC(=N1)N1C=2N(C(CC1)=O)CC=C(N2)C2=CC=CC=C2 | C27H28N6O2
reactant | 1,8-diaza-bicyclo[5.4.0]undec-7-ene | 0.312 mmol, 47 μL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | diphenylphosphoryl azide | 0.312 mmol, 68 μL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-{2-[2-(4-Azidomethyl-phenyl)-1-methyl-ethylamino]-pyrimidin-4-yl}-8-phenyl-1,2,3,6-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | N(=[N+]=[N-])CC1=CC=C(C=C1)CC(C)NC1=NC=CC(=N1)N1C=2N(C(CC1)=O)CC=C(N2)C2=CC=CC=C2 | C27H27N9O
